US04008068
Preparation of 5-Cyclohexyl-1,3,4-thiadiazol-2-yl Isocyanate Dimer
A saturated solution of phosgene in ethyl acetate (500 ml) is charged into a glass reaction vessel equipped with a mechanical stirrer. 5-Cyclohexyl-2-amino-1,3,4-thiadiazole (6 grams) is added to the reaction vessel, and the resulting mixture is stirred and heated at reflux for a period of about 4 hours, resulting in the formation of a precipitate. The reaction mixture is then purged with nitrogen gas to remove unreacted phosgene. The purged mixture is then filtered to recover the precipitate. The precipitate is then recrystallized from a dimethyl formamide-water mixture to yield the desired product 5-cyclohexyl-1,3,4-thiadiazol-2-yl isocyanate dimer having a melting point of 237° to 239° C.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 5-Cyclohexyl-2-amino-1,3,4-thiadiazole | 6 grams | C1(CCCCC1)C1=NN=C(S1)N | C8H13N3S
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 5-cyclohexyl-1,3,4-thiadiazol-2-yl isocyanate | C1(CCCCC1)C1=NN=C(S1)N=C=O | C9H11N3OS
